US09260416B2
Step 4: 3-(5-Bromo-pyridin-3-ylsulfanyl)-6-chloro-2-methyl-1H-indole
(3-Chloro-phenyl)-hydrazine hydrochloride (0.828 g, 4.63 mmol) and 1-(5-bromo-pyridin-3-ylsulfanyl)-propan-2-one (1.1 g, 4.63 mmol) were dissolved in tert-butanol (50 mL) and heated to 80° C. After heating overnight the reaction was cooled and concentrated. Purification on silica gel (0-50% EtOAc in hexanes) revealed the existence of hydrazone intermediates. The material was therefore resubmitted to the reaction conditions, with the addition of HCl in ether (13.9 mmol). After 2 hours acetic acid (2 mL) was added and the reaction continued to stir at 80° C. After stirring for 1 hour the reaction was cooled, concentrated and submitted to silica gel chromatography (10% MeOH in CH2Cl2) to afford a separable mixture of isomers, of which the first to elute from the column was the title compound.

reactant | (3-Chloro-phenyl)-hydrazine hydrochloride | 4.63 mmol, 0.828 g | Cl.ClC=1C=C(C=CC1)NN
reactant | 1-(5-bromo-pyridin-3-ylsulfanyl)-propan-2-one | 4.63 mmol, 1.1 g | BrC=1C=C(C=NC1)SCC(C)=O | C8H8BrNOS
reactant | HCl | Cl | ClH
reactant | ether | 13.9 mmol | CCOCC | C4H10O
solvent | tert-butanol | 50 mL | C(C)(C)(C)O | C4H10O
solvent | acetic acid | 2 mL | C(C)(=O)O | C2H4O2
product | 3-(5-Bromo-pyridin-3-ylsulfanyl)-6-chloro-2-methyl-1H-indole | BrC=1C=C(C=NC1)SC1=C(NC2=CC(=CC=C12)Cl)C | C14H10BrClN2S
